US08198296B2
To a solution of 3-(tert-butoxycarbonyl)-3-azabicyclo[3.3.0]-oct-6-ene-7-carboxylic acid (0.080 g, 0.32 mmol) in dichloromethane (3.0 mL) was added oxalyl chloride (0.20 g, 1.6 mmol), followed by a drop of DMF. After stirring for 1 h, the the reaction mixture was concentrated in vacuo, and the residual acid chloride was dissolved in acetonitrile (3.0 mL). DIPEA (0.17 mL, 0.96 mmol) and N,O-dimethylhydroxylamine hydrochloride (0.042 g, 0.43 mmol) were added, and the reaction was stirred at ambient temperature for 1 h. The solvent was evaporated, and the residue was purified by silica gel column chromatography, eluting with 80-90% ethyl acetate in hexanes, to obtain 0.078 g (82% yield) of N-methoxy-N-methyl-3-(tert-butoxycarbonyl)-3-azabicyclo[3.3.0]oct-6-ene-7-carboxamide, as an oil. This was dissolved in dichloromethane (3.0 mL), treated with TFA (2.0 mL) and stirred at ambient temperature for 1 h. The volatiles were evaporated, and the residue was vacuum dried to obtain 0.07 g of N-methoxy-N-methyl-3-azabicyclo[3.3.0]oct-6-ene-7-carboxamide trifluoroacetate, as an oil (1H NMR (CD3OD, 300 MHz): δ 6.29 (bs, 1H), 3.80-3.89 (m, 1H), 3.88 (s, 3H), 3.54-3.41 (m, 2H), 3.38-3.30 (m, 1H), 3.26 (s, 3H), 3.22-3.03 (m, 3H), 2.66-2.59 (m, 1H); MS (m/z): 197 (M+1)).

reactant | 3-(tert-butoxycarbonyl)-3-azabicyclo[3.3.0]-oct-6-ene-7-carboxylic acid | 0.32 mmol, 0.080 g | C(C)(C)(C)OC(=O)N1CC2CC(=CC2C1)C(=O)O | C13H19NO4
reactant | oxalyl chloride | 1.6 mmol, 0.20 g | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | DIPEA | 0.96 mmol, 0.17 mL | CCN(C(C)C)C(C)C | C8H19N
reactant | N,O-dimethylhydroxylamine hydrochloride | 0.43 mmol, 0.042 g | Cl.CNOC
solvent | dichloromethane | 3.0 mL | ClCCl | CH2Cl2
solvent | DMF | CN(C)C=O | C3H7NO
product | N-methoxy-N-methyl-3-(tert-butoxycarbonyl)-3-azabicyclo[3.3.0]oct-6-ene-7-carboxamide | 0.078 g, 82% yield | CON(C(=O)C1=CC2CN(CC2C1)C(=O)OC(C)(C)C)C | C15H24N2O4
